2187-07-14 08:06:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - intubated, sedated, required both levo and neo for BP support, then
   was paralyzed due to difficulty oxygenating on vent, vecuronium d/c'd
   in evening
   - echo showed EF of 50% with hypokinesis of low posterior wall, trop at
   0.27 then 0.21, cardiology consulted, given aspirin
   - started on vanco and zosyn
   - given solumedrol 125mg IV x 2
   - onc recs- hem/onc fellow ([**First Name8 (NamePattern2) 174**] [**Last Name (NamePattern1) 2958**]) recommends as little
   steroids as possible, but may repeat same solumedrol dose daily, [**Hospital1 **],
   TID, if pt's condition worsens
   - cards recs- hemodynamic support, ASA, ETT, wean pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-7-13**] 06:04 PM
   Vancomycin - [**2187-7-13**] 07:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-14**] 01:56 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2187-7-13**] 09:25 AM
   Vecuronium - [**2187-7-13**] 09:50 AM
   Ranitidine (Prophylaxis) - [**2187-7-13**] 08:09 PM
   Midazolam (Versed) - [**2187-7-14**] 12:55 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-14**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 81 (79 - 122) bpm
   BP: 121/78(94) {111/34(10) - 149/96(116)} mmHg
   RR: 27 (0 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 11 (6 - 218)mmHg
   Total In:
                                                                  3,549 mL
                                                                  1,304 mL
   PO:
   TF:
   IVF:
                                                                  3,549 mL
                                                                  1,304 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    123 mL
   Urine:
                                                                  2,160 mL
                                                                    123 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    589 mL
                                                                  1,181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (450 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.37/35/112/19/-3
   Ve: 11.8 L/min
   PaO2 / FiO2: 280
   Physical Examination
   GEN: intubated, sedated, not responding to voice or gentle rub
   CHEST: b/l bronchial breath sounds, +crackles
   Abd: soft, NABS
   Extr: warm, mild edema
   Labs / Radiology
   71 K/uL
   8.4 g/dL
   197 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.0 mEq/L
   33 mg/dL
   116 mEq/L
   144 mEq/L
   25.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2187-7-13**]  07:16 AM
                             [**2187-7-13**]  10:24 AM
                             [**2187-7-13**]  11:00 AM
                             [**2187-7-13**]  02:20 PM
                             [**2187-7-13**]  04:02 PM
                             [**2187-7-13**]  05:53 PM
                             [**2187-7-13**]  09:27 PM
                             [**2187-7-14**]  01:03 AM
                             [**2187-7-14**]  02:15 AM
   WBC
   11.2
   10.9
   4.8
   Hct
   32.9
   30.8
   25.3
   Plt
   140
   103
   71
   Cr
   0.6
   0.6
   0.6
   TropT
   0.21
   0.16
   TCO2
   23
   22
   22
   23
   20
   21
   Glucose
   274
   279
   197
   Other labs:
   PT / PTT / INR:13.5/26.1/1.2,
   CK / CKMB / Troponin-T:47/6/0.16,  (Trp 0.27
 0.21
 0.16)
   ALT / AST:17/17, Alk Phos / T Bili:219/0.9,
   Differential-Neuts:55.0 %, Band:0.0 %, Lymph:39.0 %, Mono:5.0 %,
   Eos:0.0 %,
   Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:688 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
   # Acute Respiratory Failure: [**3-5**] ARDS in the setting of IL-2 therapy vs
   overlying PNA. Not likely to be cardiogenic or PE. Intubated on [**7-13**].
   s/p methylprednisolone 125mg x 2 for inflammatory response.
   - continue mechanical ventilation
   - consider further steroid doses
   - closely monitor I/Os.
   - daily CXRs
   - hold IL-2
   # Hypotension/Shock: likely hypovolemic from diuresis vs distributive
   in the setting of IL-2 therapy, unclear wether infection/sepsis is
   present. TTE [**7-13**] w LVEF 50%. Temporarily on pressors (NE,
   phenylephrine) on [**7-13**].
   - vancomycin/zosyn ([**7-13**] - ) for possible infection
   - pan-culture if spikes
   - maintain MAPs > 65
   # Non-anion gap metabolic acidosis: Unclear etiology, possibly from
   loose stools in the setting of IL-2 therapy.
   - Holding IL-2 for now.
   - Closely monitor acid-base status.
   # Hypernatremia: Appears total body fluid overloaded although may be
   intravascularly deplete due to ongoing capillary leak from IL-2.
   Suspect that hyponatremia will improve with diuresis with lasix.
   - Monitor serum Na.
   - Hold on giving back free H2O for now.
   .
   # Anemia: Hct 32.8 on admission, dropped to 25 likely in [**3-5**] acute
   procedures (line placement) in the setting of anemia of chronic
   disease.
   - maintain active T&S.
   - transfuse for Hct < 24 (onc pt).
   # Thrombocytopenia: PLT 448 on admission, now 73. Unclear etiology
   chemo vs HIT vs other.
   - Continue to closely monitor plts.
   - Consider HIT w/u (PF-3 ab)
   - Review med list for other possible offending agents.
   # Metastatic melanoma: - Current respiratory compromise likely [**3-5**] IL-2
   related toxicity.
   - Holding further IL-2 for now.
   - Further management per primary oncology team.
   # DM II: NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-13**] 10:33 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: daughter [**Name (NI) 7024**] [**Name (NI) 7025**] [**Telephone/Fax (1) 7026**]
   Code status: Full code
   Disposition:

2187-07-15 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2187-7-14**] 11:00 AM
 SPUTUM CULTURE - At [**2187-7-14**] 11:00 AM
   -had low UO <30ml/hr with sediment and BP in 90s, gave 500ml bolus LR
   at 8:30pm
   - Per Dr. [**Last Name (STitle) 2958**], [**First Name3 (LF) 124**] continue steriods through [**7-14**]
   - HIT Ab sent, however, IL-2
   - sputum with GNRs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-7-13**] 06:04 PM
   Vancomycin - [**2187-7-14**] 08:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-15**] 02:07 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2187-7-14**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-15**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 70 (69 - 104) bpm
   BP: 117/55(77) {93/43(62) - 137/82(100)} mmHg
   RR: 22 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 20 (8 - 20)mmHg
   Total In:
                                                                  3,752 mL
                                                                    246 mL
   PO:
   TF:
   IVF:
                                                                  3,692 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                    648 mL
                                                                    280 mL
   Urine:
                                                                    648 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,104 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 36 cmH2O
   Plateau: 36 cmH2O
   Compliance: 17.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/36/91.[**Numeric Identifier 253**]/21/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GEN: intubated, sedated, not responding to voice or gentle rub
   CHEST: b/l bronchial breath sounds, +crackles
   Abd: soft, NABS
   Extr: warm, mild edema
   Labs / Radiology
   77 K/uL
   8.4 g/dL
   192 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   44 mg/dL
   117 mEq/L
   146 mEq/L
   25.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2187-7-13**]  05:53 PM
                             [**2187-7-13**]  09:27 PM
                             [**2187-7-14**]  01:03 AM
                             [**2187-7-14**]  02:15 AM
                             [**2187-7-14**]  09:21 AM
                             [**2187-7-14**]  10:18 AM
                             [**2187-7-14**]  11:35 AM
                             [**2187-7-14**]  04:43 PM
                             [**2187-7-15**]  05:18 AM
                             [**2187-7-15**]  07:32 AM
   WBC
   10.9
   4.8
   6.4
   8.1
   6.9
   Hct
   30.8
   25.3
   25.7
   26.6
   25.9
   Plt
   103
   71
   71
   83
   77
   Cr
   0.6
   0.6
   0.7
   TropT
   0.16
   TCO2
   20
   21
   22
   22
   25
   Glucose
   279
   197
   192
   Other labs: PT / PTT / INR:13.7/22.2/1.2, CK / CKMB /
   Troponin-T:47/6/0.16, ALT / AST:16/18, Alk Phos / T Bili:183/0.5,
   Differential-Neuts:59.6 %, Band:0.0 %, Lymph:36.1 %, Mono:3.7 %,
   Eos:0.1 %, Fibrinogen:442 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9
   g/dL, LDH:825 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
   # Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic
   capillary leak from IL-2 therapy w possible overlying PNA. Intubated on
   [**7-13**]. s/p methylprednisolone 125mg x 2 for inflammatory response.
   - continue mechanical ventilation
 wean resp rate, FiO2, PEEP as
   tolerated based on morning ABG, decrease RR for now
   - continue Vanc/Zosyn for empiric treatment of HAP. Day 2.
   - wean sedation
   - f/u sputum culture
   - closely monitor I/Os.
   - daily CXRs
   - hold IL-2
   # Hypotension/Shock: Improved, on no pressors.  On admission likely
   distributive in the setting of IL-2 therapy.
   - NS boluses as needed for MAP > 65
   # Non-anion gap metabolic acidosis/Hypernatremia: Likely 2/2 NS fluid
   resuscitation and loose stools prior to ICU admission
   - monitor chem-7
   - could alternate NS w LR as needed
   - closely monitor acid-base status
   .
   # Anemia: Hct baseline 32.8 on admission, currently stable at 26.
   Dropped likely in [**3-5**] acute procedures (line placement) in the setting
   of anemia of chronic disease.
   - check Hct daily
   - maintain active T&S.
   - transfuse for Hct < 24 (onc pt).
   # Thrombocytopenia: PLT 448 on admission, now 73. Unclear etiology
   chemo vs HIT vs other. Fibrinogen within normal limits.
   - closely monitor plts
   - transfuse if PLT < 20
   - check HIT ab (PF-4 ab)
   - off heparin products
   # Metastatic melanoma: received IL-2 therapy w complications.
   - Holding further IL-2 for now.
   - Further management per primary oncology team.
   # DM II: NPO, on sliding scale insulin
   ICU Care
   Nutrition: Start tube feeds.
   Glycemic Control:  sliding scale
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-13**] 10:33 AM
   Prophylaxis:
   DVT: pneumoboots, no heparin products due to drop in platelets
   Stress ulcer: Ranitidine
   Communication:  Comments:  Daughter
   [**Name (NI) 156**] status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 56 year old female with metastatic melanoma
   who developed respiratory failure and shock after IL2
   therapy. Overnight peep decreased to 8.   Bolused for low u/o with good
   response.
   EXAM: 100.3-->98.9  70-100  93-137 sys  28-33   CMV 460/28/8/40%-->
   7.43/36/92     + 3L
   Intubated, sedated, perrla
   b/l rales
   rr
   + BS, soft
   + dep edema
   Labs:  wbc 6.9     hct 25.9   plts 77,    bun/cr  44/0.7   lactate 1.1
   CXR with  et, r sc line  ok, b/l pulm edema improved c/t presentation
   Sputum
gnr, no additional pos micro
   Probable capillary leak syndrome from IL-2 therapy with ards/shock
   (resolved). Also had component of demand ischemia given trop elevation
   in setting of acute decompensation and regional TTE findings.
   Issues include:
         Acute Respiratory Failure/ards/pulm edema
         Non AG met acidosis (improving)
         Hypernatremia (mild)
         thrombocytopenia
         anemia
         metastatic melanoma
         DM
   Agree with plan to continue supportive care for probable IL-2 capillary
   leak syndrome. Shock has resolved and BP remains adequate off pressors.
   Following cvp, lactate, urine output.     Continuing broad empiric
   antbx (day 3 vanco/zosyn)
 is growing gnr in sputum--awaiting
   speciation.  Would taper antibx accordingly once micro results are
   finalized/bl neg.  Completing 48 hrs steroids given improvement, though
   this reverses IL-2 treatment effects as well.  Will work towards
   weaning/extubation though at this time still requiring significant vent
   support and has sig v/q mismatch which is sensitive to
   movement/positional change.  She also remains very sedated further
   impacting ability to wean.  Will decrease sedation, may need to change
   to short-acting [**Doctor Last Name **] (propofol or precidex). Decrease peep following
   abg.  Has mild alkalosis by ph
but is overbreathing the set vent rate.
   Has improving nongap MA likely from aggressive NS IVFs.   Monitor and
   use LR.  Thrombocytopenia is likely related to systemic response to
   IL-2
remains stable.  Follow coags, fibrinogen.  ICU:  SSI, start tf,s,
   free h2o for hypernatremia.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2187-7-15**] 12:25 PM ------

2187-07-16 07:39:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - PS trial: [**11-8**] based on gas had to increased FiO2 to 50%, PEEP 10 ->
   currently PSV 10/10
   - HIT will be logged on monday
   - pan-cultured: sputum gram -ve rods, BCX ngtd, urine negative -> plan
   to d/c ABx if cx negative for 48hours
   - Vigileo discontinued
   - Started TF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-7-13**] 06:04 PM
   Vancomycin - [**2187-7-15**] 07:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-16**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2187-7-15**] 07:45 AM
   Midazolam (Versed) - [**2187-7-16**] 06:45 AM
   Other medications:
   Flowsheet Data as of  [**2187-7-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 82 (70 - 119) bpm
   BP: 98/43(64) {97/43(64) - 159/77(110)} mmHg
   RR: 15 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 20 (20 - 21)mmHg
   Total In:
                                                                  1,124 mL
                                                                    664 mL
   PO:
   TF:
                                                                     68 mL
   IVF:
                                                                  1,064 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    918 mL
                                                                    400 mL
   Urine:
                                                                    918 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    206 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 248 (248 - 693) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.42/41/109/24/1
   Ve: 8.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: intubated, sedated, opening eyes to voice or gentle rub, but does
   not follow commands
   CHEST: b/l bronchial breath sounds, +crackles
   Abd: soft, NABS
   Extr: warm, mild edema
   Labs / Radiology
   151 mEq/L
   132 K/uL
   8.4 g/dL
   117 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   40 mg/dL
   117 mEq/L
   25.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2187-7-14**]  10:18 AM
                             [**2187-7-14**]  11:35 AM
                             [**2187-7-14**]  04:43 PM
                             [**2187-7-15**]  05:18 AM
                             [**2187-7-15**]  07:32 AM
                             [**2187-7-15**]  08:55 AM
                             [**2187-7-15**]  01:01 PM
                             [**2187-7-15**]  03:10 PM
                             [**2187-7-16**]  04:51 AM
                             [**2187-7-16**]  05:06 AM
   WBC
   8.1
   6.9
   13.9
   Hct
   26.6
   25.9
   25.6
   Plt
   83
   77
   132
   Cr
   0.7
   0.6
   TCO2
   22
   22
   25
   24
   22
   25
   28
   Glucose
   192
   117
   Other labs:
   PT / PTT / INR:14.5/23.3/1.3,
   CK / CKMB / Troponin-T:47/6/0.16,
   ALT / AST:15/16, Alk Phos / T Bili:169/0.5,
   Fibrinogen:442 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:907
   IU/L,
   Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Microbiology: Sputum ([**7-14**]) - GNR
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   # Fever: unclear etiology, likely [**3-5**] HAP/VAP
   - continue Vanc/Zosyn ([**7-13**] - ) for empiric treatment of HAP
   - add ciprofloxacin ([**7-16**] - ) for double GNR/Pseudomonas coverage
   - monitor fever curve
   - check urine and blood cxs
   # Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic
   capillary leak from IL-2 therapy w possible overlying PNA. ?
   lymphangitic melanoma. Intubated on [**7-13**]. S/p methylprednisolone 125mg
   ([**Date range (1) 7082**]) for inflammatory response.
   - continue mechanical ventilation
 wean RR, FiO2, PEEP as tolerated
   goal PEEP 5, FiO2 40%
   - continue Vanc/Zosyn ([**7-13**] - ) for empiric treatment of HAP
   - wean sedation
 attempt transitioning from midazolam/fentanyl to
   propofol/fentanyl
   - f/u sputum culture speciation
   - closely monitor I/Os
   - daily CXRs
   - consider CT chest to eval for lymphangitic melanoma
   - hold IL-2
   # Hypotension/Shock: On admission likely distributive in the setting of
   IL-2 therapy. Temporarily on norepinephrine and phenylephrine on [**7-13**].
   Improved pressures, of pressors.
   - LR boluses as needed for MAP > 65
   # Hypernatremia: Likely 2/2 NS fluid resuscitation and loose stools
   prior to ICU admission
   Free water deficit: 2-3L.
   - D5W and free water flushes through tube feed
   - monitor chem-7
   - LR as needed instead of NS
   - closely monitor acid-base status
   - recheck afternoon electrolytes
   .
   # Anemia: Hct baseline 32.8 on admission, currently stable at 26.
   Dropped likely in [**3-5**] acute procedures (line placement) in the setting
   of anemia of chronic disease.
   - check Hct daily
   - maintain active T&S.
   - transfuse for Hct < 24 (onc pt).
   # Thrombocytopenia: Unclear etiology
 chemo vs HIT vs other. PLT 448
   on admission, nadir 71, now uptrending. Fibrinogen within normal
   limits.
   - closely monitor plts
   - transfuse if PLT < 20
   - f/u HIT ab (PF-4 ab)
   - off heparin products
   # Metastatic melanoma: received IL-2 therapy w complications.
   - Holding further IL-2 for now.
   - Further management per primary oncology team.
   # DM II: tube feeds, on sliding scale insulin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-7-16**] 12:36 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-13**] 10:33 AM
   Prophylaxis:
   DVT: pneumoboots, start enoxaparin 40mg SC (low suspicion for HIT)
   Stress ulcer: ranatidine
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 156**] status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   substatntially with the assessment and plan as described above with the
   following modifications/emphasis:
   56 year old female with metastatic melanoma who presented for IL-2
   therapy and post-therapy developed respiratory failure and shock.
   T 98.3 P 126 BP 70/40 RR 22 SaO2 96%
   Intubated, sedated hypotensive
   Chest: CTA
   Heart: S1 S2
   Abd: soft NT ND
   Ext: No edema
   CXR: Bilateral diffuse infiltrates
   Labs as above
   Assessment:
   1) Acute Respiratory Failure:
   a. Most likely ARDS/non-cardiogenic pulmonary edema from IL-2. Other
   possibilities include pneumonia/ARDS.
   b. Will continue antibiotics for now as patient having secretions and
   spiking a temperature
   c. Wean Fio2 to 0.4 and PEEP to 5 -> then will perform SBT
   d. If fails weaning, then will switch to Propofol to allow benzo
   washout
   2) Shock:
   a. Resolved
 continue to monitor pressures and perfusion endpoints
   3) Fever:
               - Will panculture including sputum, blood, urine, stool (if
   any)
               - Will add back the cipro as her fever and increase WBC
   occurred 24 hours after discontinuing this antibiotic
   4) Metastatic Melenoma
   5) Thrombocytopenia: stable
   6) DM
   7) Full Code
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2187-7-16**] 10:17 PM ------

2187-07-17 07:47:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - transitioned from midazolam to propofol, continued fentanyl
   - decreased pressure support during the day, switched back to AC
   overnight, tried PS and weaning in AM, but pt in respiratory distress,
   tachycardic, hypertensive, so switched back to AC 460/20/10/50%
   - intermittently hypotensive, could not diurese
   - family meeting at 3pm - need to call onc for presence
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-7-16**] 08:19 PM
   Ciprofloxacin - [**2187-7-17**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-17**] 12:52 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2187-7-16**] 09:51 AM
   Enoxaparin (Lovenox) - [**2187-7-16**] 11:35 AM
   Ranitidine (Prophylaxis) - [**2187-7-16**] 08:19 PM
   Fentanyl - [**2187-7-17**] 06:30 AM
   Other medications:
   Flowsheet Data as of  [**2187-7-17**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.4
C (97.5
   HR: 132 (70 - 136) bpm
   BP: 160/77(115) {93/41(57) - 170/85(124)} mmHg
   RR: 27 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,809 mL
                                                                  1,221 mL
   PO:
                                                                    120 mL
             TF:
                                                                    279 mL
                                                                    254 mL
   IVF:
                                                                  2,450 mL
                                                                    467 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    400 mL
   Urine:
                                                                  1,535 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,274 mL
                                                                    821 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 638 (468 - 638) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/44/169/26/4
   Ve: 8.5 L/min
   PaO2 / FiO2: 422
   Physical Examination
   GEN: intubated, sedated, minimal response to voice (opens eyes)
   CHEST: b/l bronchial breath sounds, +crackles
   Abd: soft, NABS
   Extr: warm, mild edema
   Labs / Radiology
   128 K/uL
   7.2 g/dL
   176 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.4 mEq/L
   24 mg/dL
   107 mEq/L
   139 mEq/L
   22.3 %
   8.9 K/uL
        [image002.jpg]
                             [**2187-7-15**]  05:18 AM
                             [**2187-7-15**]  07:32 AM
                             [**2187-7-15**]  08:55 AM
                             [**2187-7-15**]  01:01 PM
                             [**2187-7-15**]  03:10 PM
                             [**2187-7-16**]  04:51 AM
                             [**2187-7-16**]  05:06 AM
                             [**2187-7-17**]  01:17 AM
                             [**2187-7-17**]  03:46 AM
                             [**2187-7-17**]  03:57 AM
   WBC
   6.9
   13.9
   8.9
   Hct
   25.9
   25.6
   22.3
   Plt
   77
   132
   128
   Cr
   0.7
   0.6
   0.4
   TCO2
   25
   24
   22
   25
   28
   25
   30
   Glucose
   192
   117
   176
   Other labs:
   PT / PTT / INR:14.5/23.3/1.3,
   CK / CKMB / Troponin-T:47/6/0.16, ALT / AST:14/13, Alk Phos / T
   Bili:138/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %,
   Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9 g/dL, LDH:688
   IU/L,
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Micro: sputum [**7-14**] GNR
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
   # Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic
   capillary leak from IL-2 therapy w possible overlying PNA. Intubated on
   [**7-13**]. s/p methylprednisolone 125mg x 2 for inflammatory response.
   - continue mechanical ventilation
 wean resp rate, FiO2, PEEP as
   tolerated based before changing to pressure support
   - continue Vanc/Zosyn x 8 days (6/12
 [**7-20**]) for GNR HAP
   - wean sedation as tolerated
   - f/u sputum culture
   - closely monitor I/Os
   - daily CXRs
   - hold IL-2
   # Anemia: Hct baseline 32.8 on admission. Dropped likely in [**3-5**] acute
   procedures (line placement) in the setting of anemia of chronic
   disease. [**Month (only) 8**] also be from dilution with IVF.
   - check Hct daily
   - maintain active T&S.
   - give lasix 20 mg IV x 1, then recheck hct in PM (goal is negative
   I/Os)
   - transfuse for Hct < 24 if still low
   # Thrombocytopenia: Likely [**3-5**] chemo, not likely to be HIT or DIC. PLT
   448 on admission, nadired at 71, now uptrending.
   - closely monitor plts
   - transfuse if PLT < 20
   # Metastatic melanoma: received IL-2 therapy w complications.
   - Holding further IL-2 for now.
   - Further management per primary oncology team.
   - family meeting today @ 3pm to discuss overall plan
   # Hpernatremia: Peaked at 151, now at 139 after free water boluses with
   tube feeds
   - reduce free water bolus to 50ml flushes
   - will recheck PM lytes
   # DM II: on sliding scale insulin
   # Hypotension/Shock: Improved, on no pressors.  On admission likely
   distributive in the setting of IL-2 therapy. Resolved.
   # Non-anion gap metabolic acidosis/Hypernatremia: Likely 2/2 NS fluid
   resuscitation and loose stools prior to ICU admission. Resolved.
   - monitor chem-7
   - could alternate NS w LR as needed
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-7-16**] 12:36 AM 40 mL/hour
   - will reduce free water bolus, see above
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-13**] 10:33 AM
   Prophylaxis:
   DVT: enoxaparin
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   have seen and examined the patient with the resident and agree with
   substatntially with the assessment and plan as described above with the
   following modifications/emphasis:
   56 year old female with metastatic melanoma who presented for IL-2
   therapy and post-therapy developed respiratory failure and shock.  Now
   improving and no longer in shock.
   Overnight, remains off vasopressors and weaned fio2 from 0.6 to 0.4 and
   is now on PS although PEEP remains [**Company 7121**] 98.9 P 102 BP 100/60 RR 22 SaO2 96%
   Intubated, sedated hypotensive
   Chest: CTA
   Heart: S1 S2
   Abd: soft NT ND
   Ext: No edema
   CXR: Bilateral diffuse infiltrates
   WBC: 13.9 -> 8.9
   Hgb: 7.2
   Plts: 128
   Labs as above
   Assessment:
   1) Acute Respiratory Failure:
   a. Most likely ARDS/non-cardiogenic pulmonary edema from IL-2. Other
   possibilities include pneumonia/ARDS.
   b. Will continue antibiotics for now as patient having secretions and
   spiking a temperature
   c. Decrease PEEP to 8 mmHg
   d. Diuresis
   2) Shock:
   a. Resolved
 continue to monitor pressures and perfusion endpoints
   3) Fever: Resolved
   - Continue to follow culture results
   - Continue antibiotics for now
   4) Metastatic Melenoma
   5) Thrombocytopenia: stable
   6) Anemia
   7) DM
   8) Full Code
   9) Family meeting today for updates
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2187-7-17**] 11:59 PM ------

2187-07-18 07:49:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - family meeting with oncology, updated family
   - On CPAP 12/5, sats to 89%, improved with suction; later ABG with PO2
   of 64, was returned to AC overnight, back to PS 12/5 this AM
   - lasix 20mg IV x 3
   - hct rechecked at 24 after first lasix
   - agitated therefore sedation increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-7-17**] 08:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-18**] 12:08 AM
   Ciprofloxacin - [**2187-7-18**] 01:08 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2187-7-17**] 11:57 AM
   Fentanyl - [**2187-7-17**] 08:00 PM
   Furosemide (Lasix) - [**2187-7-18**] 03:31 AM
   Other medications:
   Flowsheet Data as of  [**2187-7-18**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 86 (82 - 130) bpm
   BP: 85/38(55) {81/38(54) - 168/83(121)} mmHg
   RR: 19 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,064 mL
                                                                    593 mL
   PO:
             TF:
                                                                    633 mL
   IVF:
                                                                  1,751 mL
                                                                    593 mL
   Blood products:
   Total out:
                                                                  3,925 mL
                                                                  1,165 mL
   Urine:
                                                                  3,740 mL
                                                                  1,165 mL
   NG:
                                                                    185 mL
   Stool:
   Drains:
   Balance:
                                                                   -861 mL
                                                                   -572 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 509 (509 - 535) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.46/49/114/34/10
   Ve: 7.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   GEN: intubated, sedated, minimal response to voice (opens eyes
   slightly)
   CHEST: b/l breath sounds, clear
   Abd: soft, NABS
   Extr: warm, no edema
   Labs / Radiology
   179 K/uL
   7.8 g/dL
   202 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.7 mEq/L
   14 mg/dL
   103 mEq/L
   143 mEq/L
   23.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2187-7-17**]  03:57 AM
                             [**2187-7-17**]  12:18 PM
                             [**2187-7-17**]  12:25 PM
                             [**2187-7-17**]  03:02 PM
                             [**2187-7-17**]  05:20 PM
                             [**2187-7-17**]  06:36 PM
                             [**2187-7-17**]  07:09 PM
                             [**2187-7-17**]  09:08 PM
                             [**2187-7-18**]  04:26 AM
                             [**2187-7-18**]  04:47 AM
   WBC
   10.0
   Hct
   24.4
   23.2
   Plt
   179
   Cr
   0.4
   TCO2
   30
   30
   31
   31
   29
   22
   36
   36
   Glucose
   202
   Other labs: PT / PTT / INR:14.5/23.3/1.3, CK / CKMB /
   Troponin-T:47/6/0.16, ALT / AST:[**1-12**], Alk Phos / T Bili:125/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %, Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9
   g/dL, LDH:629 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Micro:
   Sputum [**7-14**]
 GNR, Coag+ Staph aureus
   Sputum [**7-16**] - GNR
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
   # Acute Respiratory Failure: CXR this morning looks worsened. Intubated
   on [**7-13**]. [**3-5**] ARDS in the setting of systemic capillary leak from IL-2
   therapy w possible overlying PNA. s/p methylprednisolone 125mg x 2 for
   inflammatory response.
   - continue mechanical ventilation as set (PSV)
   - continue Vanc/Zosyn/Cipro x 8 days (6/12
 [**7-20**]) for GNR HAP
   - wean sedation as tolerated (this am patient became tachycardia, HTN
   with sedation)
   - f/u sputum culture
   - BAL today
   - closely monitor I/Os
   # Anemia: Hct baseline 32.8 on admission. Stable HCT 23-24. Dropped
   likely in [**3-5**] acute procedures (line placement) in the setting of
   anemia of chronic disease. [**Month (only) 8**] also be from dilution with IVF.
   - check Hct daily
   - maintain active T&S.
   - transfuse for Hct < 22
   # Thrombocytopenia: Likely [**3-5**] chemo. PLT 448 on admission, nadired at
   71, now uptrending.
   - closely monitor plts
   - transfuse if PLT < 20
   # Hypernatremia: Likely [**3-5**] dehydration and NS fluid resuscitation,
   peaked at 151. Currently 143.
   - monitor chem-7 daily and tube feed flushes as needed
   # Metastatic melanoma: Family meeting yesterday. Received IL-2 therapy
   w complications.
   - Holding further IL-2 for now.
   - Discuss additional dose of steroids
   - Further management per primary oncology team.
   # DM II: on sliding scale insulin
   # Hypotension/Shock: Resolved. Place radial line and remove femoral
   a-line.
   ICU Care
   Nutrition: tube feeds
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-13**] 10:33 AM
   Prophylaxis:
   DVT: enoxaparin
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   substatntially with the assessment and plan as described above with the
   following modifications/emphasis:
   56 year old female with metastatic melanoma who presented for IL-2
   therapy and post-therapy developed respiratory failure and shock.
   Shock has subsequently resolved although patient remains in respiratory
   failure.
   Overnight, patient has had increased thick secretions from ETT
   T 98.9 P 102 BP 106/70 RR 22 SaO2 96%  on PS 10/5
   Intubated, sedated
   Chest: CTA
   Heart: S1 S2
   Abd: soft NT ND
   Ext: No edema
   CXR: Bilateral diffuse infiltrates with right-sided infiltrate worse
   than yesterday
   WBC: 10.0
   BUN/Cr: 14/0.4
   Labs as above
   Assessment:
   1) Acute Respiratory Failure:
   a. Most likely ARDS/non-cardiogenic pulmonary edema from IL-2. Other
   possibilities include pneumonia/ARDS.  Now that worse infiltrate and
   increased and thisk secreations, there is likely a superimposed vent
   pneumonia.
   b. Will continue antibiotics given infilatrate and thick secretions
   c. Maintain PS if possible
   d. Diuresis
   2) Shock:
   a. Resolved
 continue to monitor pressures and perfusion endpoints.
   3) Fever: Resolved
   - Continue to follow culture results
   - Continue antibiotics for now
   4) Metastatic Melenoma
   5) Thrombocytopenia: stable
   6) Anemia
   7) DM
   8) Full Code
   9) Family meeting today for updates
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2187-7-19**] 01:02 AM ------

2187-07-19 07:13:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Per onc methylpred for 2 doses
   - unable to get mini-BAL due to little secretions, trying this morning
   - met I/O goal: - 2 L
   - need to replace a-line from fem line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-7-18**] 07:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-19**] 12:00 AM
   Ciprofloxacin - [**2187-7-19**] 01:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2187-7-18**] 06:08 PM
   Ranitidine (Prophylaxis) - [**2187-7-18**] 08:04 PM
   Propofol - [**2187-7-19**] 06:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-19**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 115 (66 - 122) bpm
   BP: 148/71(107) {85/39(55) - 172/87(123)} mmHg
   RR: 19 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,559 mL
                                                                    485 mL
   PO:
             TF:
   IVF:
                                                                  1,509 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  3,615 mL
                                                                    560 mL
   Urine:
                                                                  3,615 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,056 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 534 (467 - 557) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.48/45/138/30/9
   Ve: 7 L/min
   PaO2 / FiO2: 345
   Physical Examination
   GEN: intubated, sedated, minimal response to voice (opens eyes
   slightly)
   CHEST: b/l breath sounds, clear
   Abd: soft, NABS
   Extr: warm, no edema
   Labs / Radiology
   245 K/uL
   8.6 g/dL
   254 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.3 mEq/L
   17 mg/dL
   101 mEq/L
   141 mEq/L
   26.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2187-7-17**]  03:02 PM
                             [**2187-7-17**]  05:20 PM
                             [**2187-7-17**]  06:36 PM
                             [**2187-7-17**]  07:09 PM
                             [**2187-7-17**]  09:08 PM
                             [**2187-7-18**]  04:26 AM
                             [**2187-7-18**]  04:47 AM
                             [**2187-7-18**]  02:48 PM
                             [**2187-7-19**]  03:43 AM
                             [**2187-7-19**]  05:46 AM
   WBC
   10.0
   6.2
   Hct
   23.2
   26.0
   Plt
   179
   245
   Cr
   0.4
   0.5
   TCO2
   31
   31
   29
   22
   36
   36
   37
   34
   Glucose
   [**Telephone/Fax (3) 7145**]
   Other labs:
   PT / PTT / INR:14.5/23.3/1.3, CK / CKMB / Troponin-T:47/6/0.16, ALT /
   AST:14/9, Alk Phos / T Bili:134/0.5, Differential-Neuts:74.0 %,
   Band:0.0 %, Lymph:22.1 %, Mono:3.2 %, Eos:0.3 %, Fibrinogen:442 mg/dL,
   Lactic Acid:1.8 mmol/L, Albumin:1.9 g/dL, LDH:527 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Micro: Sputum [**7-14**], [**7-16**] - GNR
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
   # Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic
   capillary leak from IL-2 therapy w possible overlying HAP. Received
   methylprednisolone 125mg x 2 for inflammatory response. Intubated on
   [**7-13**].
   - continue Vanc/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for GNR HAP
   - wean propofol/fentanyl, transition to precedex
   - plan for SBT and possible extubation today
   - f/u sputum culture
   - closely monitor I/Os
   # Anemia: Hct baseline 32.8 on admission. Stable HCT 23-24. Dropped
   likely in [**3-5**] acute procedures (line placement) in the setting of
   anemia of chronic disease. [**Month (only) 8**] also be from dilution with IVF.
   - check Hct daily
   - maintain active T&S.
   - transfuse for Hct < 22
   # Thrombocytopenia: Likely [**3-5**] chemo. PLT 448 on admission, nadired at
   71, now uptrending.
   - closely monitor plts
   - transfuse if PLT < 20
   # Hypernatremia: Likely [**3-5**] dehydration and NS fluid resuscitation,
   peaked at 151. Currently 143.
   - monitor chem-7 daily and tube feed flushes as needed
   # Metastatic melanoma: Family meeting yesterday. Received IL-2 therapy
   w complications.
   - Holding further IL-2 for now.
   - Discuss additional dose of steroids
   - Further management per primary oncology team.
   # DM II: on sliding scale insulin
   # Hypotension/Shock: Resolved. Place radial line and remove femoral
   a-line.
   ICU Care
   Nutrition: hold tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-13**] 10:33 AM
   Prophylaxis:
   DVT: enoxaparin SC
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substatntially with the assessment and plan as described above with the
   following modifications/emphasis:
   56 year old female with metastatic melanoma who presented for IL-2
   therapy and post-therapy developed respiratory failure and shock. Shock
   has subsequently resolved although patient remains in respiratory
   failure.
   Overnight, patient has had increased thick secretions from ETT
   T 98.9 P 102 BP 106/70  RR 22  SaO2 96%   AC 400/20/5
   Intubated, sedated
   Chest: CTA
   Heart: S1 S2
   Abd: soft NT ND
   Ext: No edema
   CXR: bilat infiltrates much improved from yesterday
   WBC: 10.0 -> 6.2
   BUN/Cr:
   Sputum: Gram negative rods, staph aureus
   Labs as above
   Assessment:
   1) Acute Respiratory Failure:
   a. Most likely ARDS/non-cardiogenic pulmonary edema from IL-2. Other
   possibilities include pneumonia/ARDS. Today, clinically much improved
   and tolerating PS 5/5 and CXR much improved.
   b. Will continue antibiotics
   c. Change to precedex to decrease agitation as she seems to be able to
   extubate from a pulmonary standpoint more likely limited
   3) Metastatic Melenoma
   4) Thrombocytopenia: stable
   5) Anemia
   6) DM
   7) Full Code
   Addendum:  Pt was doing well on PS 5/5 and following commands so
   decision made to extubate the patient.  Patient extubated but did not
   do well thus requiring re-intubation for respiratory distress/failure.
   Critical Care Time: 75 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2187-7-20**] 12:24 AM ------

2187-07-20 08:02:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - transitioned from propofol to dexmedetomidine (precedex)
 attempted
   extubation in PM, but pt reintubated after 10 mins for increased work
   of breathing
   - restarted midazolam gtt
   - continued on fentanyl gtt
   - right radial aline placed
   - concern for palatal swelling and aspiration, OMFS (Dr [**Last Name (STitle) 3583**]
   suggested ENT c/s, holding off on c/s now, as pt reintubated
   [palatal resection on [**4-/2187**] by MEEI by Dr [**First Name4 (NamePattern1) 7170**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 7171**]]
   - continued zosyn, vanc, cipro (extended course to 10-14 days)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-7-19**] 04:00 PM
   Vancomycin - [**2187-7-19**] 08:36 PM
   Ciprofloxacin - [**2187-7-20**] 12:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-20**] 01:35 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Propofol - [**2187-7-19**] 09:52 AM
   Midazolam (Versed) - [**2187-7-19**] 06:32 PM
   Fentanyl - [**2187-7-19**] 11:19 PM
   Furosemide (Lasix) - [**2187-7-20**] 01:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 128 (76 - 143) bpm
   BP: 126/66(92) {73/35(49) - 193/87(125)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  2,614 mL
                                                                    483 mL
   PO:
             TF:
             68 mL
   IVF:
                                                                  2,614 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                  2,920 mL
   Urine:
                                                                  2,330 mL
                                                                  2,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    284 mL
                                                                 -2,437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 390 (390 - 390) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.49/46/149/30/11
   Ve: 8.2 L/min
   PaO2 / FiO2: 373
   Physical Examination
   GEN: intubated, sedated, minimal response to voice (opens eyes
   slightly)
   CHEST: b/l breath sounds, clear
   Abd: soft, NABS
   Extr: warm, no edema
   Labs / Radiology
   417 K/uL
   9.1 g/dL
   155 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   17 mg/dL
   104 mEq/L
   146 mEq/L
   27.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2187-7-17**]  06:36 PM
                             [**2187-7-17**]  07:09 PM
                             [**2187-7-17**]  09:08 PM
                             [**2187-7-18**]  04:26 AM
                             [**2187-7-18**]  04:47 AM
                             [**2187-7-18**]  02:48 PM
                             [**2187-7-19**]  03:43 AM
                             [**2187-7-19**]  05:46 AM
                             [**2187-7-20**]  04:25 AM
                             [**2187-7-20**]  04:50 AM
   WBC
   10.0
   6.2
   15.5
   Hct
   23.2
   26.0
   27.5
   Plt
   179
   245
   417
   Cr
   0.4
   0.5
   0.7
   TCO2
   29
   22
   36
   36
   37
   34
   36
   Glucose
   [**Telephone/Fax (3) 7172**]55
   Other labs:
   PT / PTT / INR:12.9/20.9/1.1,
   CK / CKMB / Troponin-T:47/6/0.16,
   ALT / AST:14/9, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %,
   Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9 g/dL, LDH:463
   IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Micro:
   sputum cx - pansensitive Enterobacter cloacae
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
   # Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic
   capillary leak from IL-2 therapy at first, now w likely overlying
   infection (HAP), possibly. Received methylprednisolone 125mg x 2 for
   inflammatory response. Intubated on [**7-13**], s/p failed extubation on
   [**7-19**], now reintubated.
   - continue Vanc/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for GNR HAP
   - PS trial [**6-5**] this AM, wil need a 0/0 trail later before extubation
   - goal negative fluid balance 1 liter
   - nebs PRN
   - f/u cxs
   - wean propofol while increasing zyprexa
   # Fever, hypotension: likely infection HAP vs UTI vs other
   - continue Vanc/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for GNR HAP
   - pan-cx
   - tylenol
   - continue fluid boluses for hypotension if unable to decrease propofol
   # Anemia: Hct baseline 32.8 on admission. Stable HCT 23-24. Dropped
   likely in [**3-5**] acute procedures (line placement) in the setting of
   anemia of chronic disease. [**Month (only) 8**] also be from dilution with IVF.
   - check Hct daily
   - maintain active T&S.
   - transfuse for Hct < 22
   # Thrombocytopenia: Likely [**3-5**] chemo. PLT 448 on admission, nadired at
   71, now uptrending.
   - closely monitor plts
   - transfuse if PLT < 20
   # Hypernatremia: Likely [**3-5**] dehydration and NS fluid resuscitation,
   peaked at 151. Currently 143.
   - monitor chem-7 daily and tube feed flushes as needed
   - [**Hospital1 **] lytes
   # Metastatic melanoma: Family meeting yesterday. Received IL-2 therapy
   w complications.
   - Holding further IL-2 for now.
   - Discuss additional dose of steroids
   - Further management per primary oncology team.
   # DM II: on sliding scale insulin
   # Hypotension/Shock: Resolved. Place radial line and remove femoral
   a-line.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-7-20**] 04:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-19**] 07:25 PM
   Prophylaxis:
   DVT: enoxaparin SC
   Stress ulcer:  ranitidine
   VAP:  protocol
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2187-07-21 07:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Metastatic melanoma
   IL-2 SIRS, shock, resp failure
   Off of pressors
   Failed extubation 2 days ago
   24 Hour Events:
 BLOOD CULTURED - At [**2187-7-20**] 09:13 AM
   from both aline and central line
 URINE CULTURE - At [**2187-7-20**] 09:14 AM
 EKG - At [**2187-7-20**] 12:48 PM
   Insulin drip started
   autodiuresing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-7-19**] 04:00 PM
   Vancomycin - [**2187-7-20**] 08:30 PM
   Ciprofloxacin - [**2187-7-21**] 12:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-21**] 12:25 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2187-7-20**] 12:10 PM
   Fentanyl - [**2187-7-20**] 12:10 PM
   Haloperidol (Haldol) - [**2187-7-20**] 12:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-21**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 108 (95 - 141) bpm
   BP: 133/65(92) {73/40(52) - 175/94(128)} mmHg
   RR: 21 (19 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  2,728 mL
                                                                    874 mL
   PO:
             TF:
                                                                    609 mL
                                                                    355 mL
   IVF:
                                                                  1,920 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  6,700 mL
                                                                  1,290 mL
   Urine:
                                                                  6,700 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,972 mL
                                                                   -416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 259 (259 - 369) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/49/133/34/11
   Ve: 11.8 L/min
   PaO2 / FiO2: 332
   Physical Examination
   Intubated, sedated, nonresponsive
   Lungs clear
   Rrr
   Abd benign
   Extrem no edema
   Labs / Radiology
   8.5 g/dL
   410 K/uL
   155 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   148 mEq/L
   26.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2187-7-18**]  04:26 AM
                             [**2187-7-18**]  04:47 AM
                             [**2187-7-18**]  02:48 PM
                             [**2187-7-19**]  03:43 AM
                             [**2187-7-19**]  05:46 AM
                             [**2187-7-20**]  04:25 AM
                             [**2187-7-20**]  04:50 AM
                             [**2187-7-20**]  04:20 PM
                             [**2187-7-21**]  03:56 AM
                             [**2187-7-21**]  04:11 AM
   WBC
   10.0
   6.2
   15.5
   10.1
   Hct
   23.2
   26.0
   27.5
   26.5
   Plt
   179
   245
   417
   410
   Cr
   0.4
   0.5
   0.7
   0.6
   0.6
   TCO2
   36
   37
   34
   36
   37
   Glucose
   [**Telephone/Fax (3) 7172**]55
   268
   155
   Other labs: PT / PTT / INR:13.7/20.9/1.2, CK / CKMB /
   Troponin-T:47/6/0.16, ALT / AST:14/9, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %, Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9
   g/dL, LDH:363 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   CXR improving infiltrates
   Assessment and Plan
 DM, HYPERGLYCEMIA
 on insulin gtt
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 try zyprexa, wean sedation
 RESPIRATORY FAILURE/ARDS due to IL-2 reaction and pneumonia
 CXR
   improved, will wean vent, cont abx
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Metastatic melanoma
   Hypernatremia
 follow, replace H2O if needed
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-7-20**] 04:30 AM 50 mL/hour
   Glycemic Control:  insulin
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-19**] 07:25 PM
   Prophylaxis:
   DVT: sc LMWH
   Stress ulcer:  H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   35

2187-07-21 07:33:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - started on zyprexa with PRN haldol
   - spoke with [**Name (NI) **] pt does not immediately need mouth piece after
   extubation
   - failed PS trial, was too agitated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-7-19**] 04:00 PM
   Vancomycin - [**2187-7-20**] 08:30 PM
   Ciprofloxacin - [**2187-7-21**] 12:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-21**] 12:25 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2187-7-20**] 12:10 PM
   Fentanyl - [**2187-7-20**] 12:10 PM
   Haloperidol (Haldol) - [**2187-7-20**] 12:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-21**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 108 (95 - 141) bpm
   BP: 133/65(92) {73/40(52) - 175/94(128)} mmHg
   RR: 21 (19 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  2,728 mL
                                                                    871 mL
   PO:
             TF:
                                                                    609 mL
                                                                    353 mL
   IVF:
                                                                  1,920 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  6,700 mL
                                                                  1,290 mL
   Urine:
                                                                  6,700 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,972 mL
                                                                   -419 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 259 (259 - 369) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/49/133/34/11
   Ve: 11.8 L/min
   PaO2 / FiO2: 332
   Physical Examination
   GEN: intubated, sedated, minimal response to voice (opens eyes
   slightly)
   CHEST: b/l breath sounds, clear
   Abd: soft, NABS
   Extr: warm, no edema
   Labs / Radiology
   410 K/uL
   8.5 g/dL
   155 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   148 mEq/L
   26.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2187-7-18**]  04:26 AM
                             [**2187-7-18**]  04:47 AM
                             [**2187-7-18**]  02:48 PM
                             [**2187-7-19**]  03:43 AM
                             [**2187-7-19**]  05:46 AM
                             [**2187-7-20**]  04:25 AM
                             [**2187-7-20**]  04:50 AM
                             [**2187-7-20**]  04:20 PM
                             [**2187-7-21**]  03:56 AM
                             [**2187-7-21**]  04:11 AM
   WBC
   10.0
   6.2
   15.5
   10.1
   Hct
   23.2
   26.0
   27.5
   26.5
   Plt
   179
   245
   417
   410
   Cr
   0.4
   0.5
   0.7
   0.6
   0.6
   TCO2
   36
   37
   34
   36
   37
   Glucose
   [**Telephone/Fax (3) 7172**]55
   268
   155
   Other labs:
   PT / PTT / INR:13.7/20.9/1.2,
   CK / CKMB / Troponin-T:47/6/0.16, ALT / AST:14/9, Alk Phos / T
   Bili:134/0.5, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %,
   Mono:3.2 %, Eos:0.3 %, Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:1.9 g/dL, LDH:363 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Micro: Sputum - GNR (E. cloacae), Coag+ Staph
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
# Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic capillary leak
from IL-2 therapy at first, now w likely overlying infection (HAP), possibly. Re
ceived methylprednisolone  course. Intubated on [**7-13**], s/p failed extubation on 6
/18, now reintubated. Sputum with MSRA and Enterobacter cloacae
   - continue Vanc/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for GNR HAP
   - goal negative fluid balance (is autodiuresing)
   - nebs PRN
   - f/u cxs
   - wean propofol while increasing zyprexa
   - change to PS 10/5
   - plan on possible extuabtion tomorrow
   # Fever, hypotension: likely infection HAP vs UTI vs other, see
   discussion above about PNA
   - continue Vanc/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for HAP
   - pan-cx
   - tylenol
   - IVF bolus as needed
   # Anemia: Hct baseline 32.8 on admission. Stable HCT 23-24. Dropped
   likely in [**3-5**] acute procedures (line placement) in the setting of
   anemia of chronic disease. [**Month (only) 8**] also be from dilution with IVF.
   - check Hct this PM
   - maintain active T&S.
   - transfuse for Hct < 22
   # Thrombocytopenia: Likely [**3-5**] chemo. PLT 448 on admission, nadired at
   71, now uptrending.
   - closely monitor plts
   - transfuse if PLT < 20
   # Hypernatremia: Likely [**3-5**] dehydration and NS fluid resuscitation,
   peaked at 151. Currently 148
   - monitor chem-7 daily and tube feed flushes as needed
   - [**Hospital1 **] lytes
   # Metastatic melanoma: Family meeting yesterday. Received IL-2 therapy
   w complications.
   - Holding further IL-2 for now.
   - Discuss additional dose of steroids
   - Further management per primary oncology team.
   # DM II: on sliding scale insulin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-7-20**] 04:30 AM 50 mL/hour
   - hold tube feeds at midnight for possible extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-19**] 07:25 PM
   Prophylaxis:
   DVT: enoxaparin SC
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for now

2187-07-22 06:25:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - weaning midazolam/fentanyl, on zyprexa 5mg daily from [**Hospital1 **]
   - PS trial on [**6-5**], tolerated well
   - held TF after MN for SBT/extubation in AM of Sunday
   - I/O goal -1L (but hypotensive to SBP 70 --> small LR bolus)
   hypotensive when asleep/sedated, mild agitation when awake
   - copious oral secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-7-19**] 04:00 PM
   Vancomycin - [**2187-7-21**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-22**] 12:00 AM
   Ciprofloxacin - [**2187-7-22**] 12:51 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2187-7-21**] 08:02 AM
   Ranitidine (Prophylaxis) - [**2187-7-21**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-22**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 83 (82 - 130) bpm
   BP: 141/54(83) {73/38(51) - 169/83(118)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,515 mL
                                                                    537 mL
   PO:
             TF:
                                                                  1,188 mL
                                                                     64 mL
   IVF:
                                                                  1,946 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    405 mL
   Urine:
                                                                  2,570 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    945 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 411 (407 - 485) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.47/46/144/33/9
   Ve: 6.7 L/min
   PaO2 / FiO2: 360
   Physical Examination
   GEN: intubated, sedated, easily arousable, nods, squeezes hand
   CHEST: b/l breath sounds, clear
   Abd: soft, NABS
   Extr: warm, no edema
   Labs / Radiology
   396 K/uL
   7.6 g/dL
   188 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.2 mEq/L
   19 mg/dL
   107 mEq/L
   143 mEq/L
   23.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2187-7-19**]  05:46 AM
                             [**2187-7-20**]  04:25 AM
                             [**2187-7-20**]  04:50 AM
                             [**2187-7-20**]  04:20 PM
                             [**2187-7-21**]  03:56 AM
                             [**2187-7-21**]  04:11 AM
                             [**2187-7-21**]  11:42 AM
                             [**2187-7-21**]  07:17 PM
                             [**2187-7-22**]  03:35 AM
                             [**2187-7-22**]  03:44 AM
   WBC
   15.5
   10.1
   13.8
   10.6
   Hct
   27.5
   26.5
   25.4
   23.6
   Plt
   [**Telephone/Fax (3) 7210**]96
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   34
   36
   37
   37
   34
   Glucose
   155
   268
   155
   288
   188
   Other labs:
   PT / PTT / INR:13.3/23.7/1.1,
   CK / CKMB / Troponin-T:47/6/0.16,
   ALT / AST:14/9, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %, Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9
   g/dL, LDH:363 IU/L,
    Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Micro:
    Sputum - E. cloacae, MRSA
    Urine - yeast
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
# Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic capillary leak
from IL-2 therapy at first, now w likely overlying infection Enterobacter/MRSA H
AP. Received methylprednisolone course. Intubated on [**7-13**], s/p failed extubation
 on [**7-19**], now reintubated.
   - extubation today, plan 2 pm when daughter arrives
   - continue [**Name (NI) 2601**]/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for HAP
   - goal negative fluid balance (is autodiuresing)
   - nebs PRN
   - f/u cxs
   # Fever, hypotension: likely infection HAP vs UTI vs other, see
   discussion above about PNA
   - continue [**Month/Year (2) 2601**]/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for HAP
   - pan-cx
   - tylenol
   - IVF bolus as needed
   # Anemia: Hct baseline 32.8 on admission. Stable HCT 23-24. Dropped
   likely in [**3-5**] acute procedures (line placement) in the setting of
   anemia of chronic disease. [**Month (only) 8**] also be from dilution with IVF.
   - check Hct this PM
   - maintain active T&S.
   - transfuse for Hct < 22
   # Hypernatremia: Likely [**3-5**] dehydration and NS fluid resuscitation,
   peaked at 151. Currently 143.
   - monitor chem-7 daily and tube feed flushes as needed
   - [**Hospital1 **] lytes
   # Thrombocytopenia: Likely [**3-5**] chemo. PLT 448 on admission, nadired at
   71, now resolved.
   - closely monitor plts
   - transfuse if PLT < 20
   # Metastatic melanoma: Family meeting yesterday. Received IL-2 therapy
   w complications.
   - Holding further IL-2 for now.
   - Discuss additional dose of steroids
   - Further management per primary oncology team.
   # DM II: on sliding scale insulin
   ICU Care
   Nutrition: tube feeds
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-19**] 07:25 PM
   Prophylaxis:
   DVT: enoxaparin SC
   Stress ulcer: ranitidine
   Communication:  Comments: daughter
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2187-07-22 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated PSV well
   Needed some IVF for hypotension while sedated, BP improves when awake
   Secretions problem[**Name (NI) 555**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-7-21**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-22**] 12:00 AM
   Ciprofloxacin - [**2187-7-22**] 12:51 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-22**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 89 (82 - 125) bpm
   BP: 85/38(56) {73/38(51) - 146/70(98)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,515 mL
                                                                    561 mL
   PO:
             TF:
                                                                  1,188 mL
                                                                     64 mL
   IVF:
                                                                  1,946 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    405 mL
   Urine:
                                                                  2,570 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    945 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 411 (407 - 485) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.47/46/144/33/9
   Ve: 6.7 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Intubated, following commands
   Lungs coarse vented bs
s, diffuse rhonchi
   Hrt rrr
   Abd benign
   Extrem no edema
   Labs / Radiology
   7.6 g/dL
   396 K/uL
   188 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.2 mEq/L
   19 mg/dL
   107 mEq/L
   143 mEq/L
   23.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2187-7-19**]  05:46 AM
                             [**2187-7-20**]  04:25 AM
                             [**2187-7-20**]  04:50 AM
                             [**2187-7-20**]  04:20 PM
                             [**2187-7-21**]  03:56 AM
                             [**2187-7-21**]  04:11 AM
                             [**2187-7-21**]  11:42 AM
                             [**2187-7-21**]  07:17 PM
                             [**2187-7-22**]  03:35 AM
                             [**2187-7-22**]  03:44 AM
   WBC
   15.5
   10.1
   13.8
   10.6
   Hct
   27.5
   26.5
   25.4
   23.6
   Plt
   [**Telephone/Fax (3) 7210**]96
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   34
   36
   37
   37
   34
   Glucose
   155
   268
   155
   288
   188
   Other labs: PT / PTT / INR:13.3/23.7/1.1, CK / CKMB /
   Troponin-T:47/6/0.16, ALT / AST:14/9, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %, Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9
   g/dL, LDH:363 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 DM, HYPERGLYCEMIA
 on insulin
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 zyprexa started, wean sedation
 RESPIRATORY FAILURE/ARDS due to IL-2 reaction and pneumonia
 CXR
   improved, tolerating PSV 5/5, will try to re-extubate today though
   secretions worrisome
   Metastatic melanoma
   Hypernatremia
 follow, replace H2O if needed, improved
   ICU Care
   Nutrition:
   NPO for extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-19**] 07:25 PM
   Prophylaxis:
   DVT:  sc lovenox
   Stress ulcer:   H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   37

2187-07-23 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**7-22**]
   - extubated, currently on shovel mask and doing well.
   - Pt states she is very hungry, has cough, no pain or SOB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-7-22**] 08:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-23**] 12:00 AM
   Ciprofloxacin - [**2187-7-23**] 12:16 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2187-7-22**] 08:25 AM
   Ranitidine (Prophylaxis) - [**2187-7-22**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-7-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 90 (79 - 107) bpm
   BP: 129/51(78) {87/37(56) - 140/58(83)} mmHg
   RR: 26 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,331 mL
                                                                    436 mL
   PO:
             TF:
                                                                     64 mL
   IVF:
                                                                  1,167 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                    850 mL
   Urine:
                                                                  2,385 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,054 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 400 (350 - 400) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.48/43/80.[**Numeric Identifier 20**]/31/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 229
   Physical Examination
   GEN: extubated, on shovel mask, alert and orientated
   CHEST: b/l breath sounds, crackles at  bases
   Abd: soft, NABS
   Extr: warm, no edema, moving freely, clubing of nails
   Labs / Radiology
   389 K/uL
   7.5 g/dL
   121 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.3 mEq/L
   17 mg/dL
   109 mEq/L
   147 mEq/L
   23.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2187-7-20**]  04:20 PM
                             [**2187-7-21**]  03:56 AM
                             [**2187-7-21**]  04:11 AM
                             [**2187-7-21**]  11:42 AM
                             [**2187-7-21**]  07:17 PM
                             [**2187-7-22**]  03:35 AM
                             [**2187-7-22**]  03:44 AM
                             [**2187-7-22**]  10:00 AM
                             [**2187-7-22**]  03:20 PM
                             [**2187-7-23**]  04:02 AM
   WBC
   10.1
   13.8
   10.6
   8.7
   Hct
   26.5
   25.4
   23.6
   23.2
   Plt
   [**Telephone/Fax (3) 7232**]89
   Cr
   0.6
   0.6
   0.6
   0.7
   1.0
   TCO2
   37
   37
   34
   31
   33
   Glucose
   [**Telephone/Fax (3) 7233**]88
   121
   Other labs: PT / PTT / INR:13.4/24.0/1.1, CK / CKMB /
   Troponin-T:47/6/0.16, ALT / AST:14/9, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %, Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9
   g/dL, LDH:363 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
   Assessment and Plan
   56F w h/o metastatic melanoma admitted to the [**Hospital Unit Name 4**] w acute respiratory
   failure in the setting of IL-2 chemotherapy.
   .
# Acute Respiratory Failure: [**3-5**] ARDS in the setting of systemic capillary leak
from IL-2 therapy at first, now w likely overlying infection Enterobacter/MRSA H
AP. Received methylprednisolone course. Intubated on [**7-13**], s/p failed extubation
 on [**7-19**], now reintubated.
   - extubation today, plan 2 pm when daughter arrives
   - continue [**Name (NI) 2601**]/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for HAP
   - goal negative fluid balance (is autodiuresing)
   - nebs PRN
   - f/u cxs
   # Fever, hypotension: likely infection HAP vs UTI vs other, see
   discussion above about PNA
   - continue [**Month/Year (2) 2601**]/Zosyn/Cipro x 14 days (6/12
 [**7-26**]) for HAP
   - pan-cx
   - tylenol
   - IVF bolus as needed
   # Anemia: Hct baseline 32.8 on admission. Stable HCT 23-24. Dropped
   likely in [**3-5**] acute procedures (line placement) in the setting of
   anemia of chronic disease. [**Month (only) 8**] also be from dilution with IVF.
   - check Hct this PM
   - maintain active T&S.
   - transfuse for Hct < 22
   # Hypernatremia: Likely [**3-5**] dehydration and NS fluid resuscitation,
   peaked at 151. Currently 143.
   - monitor chem-7 daily and tube feed flushes as needed
   - [**Hospital1 **] lytes
   # Thrombocytopenia: Likely [**3-5**] chemo. PLT 448 on admission, nadired at
   71, now resolved.
   - closely monitor plts
   - transfuse if PLT < 20
   # Metastatic melanoma: Family meeting yesterday. Received IL-2 therapy
   w complications.
   - Holding further IL-2 for now.
   - Discuss additional dose of steroids
   - Further management per primary oncology team.
   # DM II: on sliding scale insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-19**] 07:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-07-23 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday, remains extubated.
   Minimal FiO2 requirement.
   Offers no new complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-7-23**] 12:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-7-23**] 07:45 AM
   Vancomycin - [**2187-7-23**] 08:18 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2187-7-23**] 07:41 AM
   Enoxaparin (Lovenox) - [**2187-7-23**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-7-23**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 88 (79 - 107) bpm
   BP: 108/44(67) {105/41(64) - 140/58(83)} mmHg
   RR: 26 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,331 mL
                                                                    802 mL
   PO:
             TF:
                                                                     64 mL
   IVF:
                                                                  1,167 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                  1,105 mL
   Urine:
                                                                  2,385 mL
                                                                  1,105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,054 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.48/43/80.[**Numeric Identifier 20**]/31/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 229
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   389 K/uL
   121 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.3 mEq/L
   17 mg/dL
   109 mEq/L
   147 mEq/L
   23.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2187-7-20**]  04:20 PM
                             [**2187-7-21**]  03:56 AM
                             [**2187-7-21**]  04:11 AM
                             [**2187-7-21**]  11:42 AM
                             [**2187-7-21**]  07:17 PM
                             [**2187-7-22**]  03:35 AM
                             [**2187-7-22**]  03:44 AM
                             [**2187-7-22**]  10:00 AM
                             [**2187-7-22**]  03:20 PM
                             [**2187-7-23**]  04:02 AM
   WBC
   10.1
   13.8
   10.6
   8.7
   Hct
   26.5
   25.4
   23.6
   23.2
   Plt
   [**Telephone/Fax (3) 7232**]89
   Cr
   0.6
   0.6
   0.6
   0.7
   1.0
   TCO2
   37
   37
   34
   31
   33
   Glucose
   [**Telephone/Fax (3) 7233**]88
   121
   Other labs: PT / PTT / INR:13.4/24.0/1.1, CK / CKMB /
   Troponin-T:47/6/0.16, ALT / AST:14/9, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:22.1 %, Mono:3.2 %,
   Eos:0.3 %, Fibrinogen:442 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.9
   g/dL, LDH:363 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Metastatic melanoma --> IL-2, preseted with capillary leak
   syndrome/resp. failure.  Improved.
   Acute Respiratory Failure -- resolved.  Attributed to pulmonary edema,
   non-cardiogeneic (IL-2 therapy).  Monitor RR, SaO2.
   PNEUMONIA -- completing antimicrobial therapy.
   Metastatic Melenoma -- no immediate plans for further therapy.
   Thrombocytopenia   --stable
   Anemia
 stable
   DM
 monitor glucose.  Maintain glucose <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-7-13**] 05:27 AM
   Arterial Line - [**2187-7-19**] 07:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes